Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Thoracic aneurysm
 
Major Surgical or Invasive Procedure:
___ :  Open Thoracic Aortic Aneurysm Repair

 
History of Present Illness:
___ year old female who was recently found to have what was
thought to be a mediastinal mass on a routine chest x-ray as 
part
of a physical for a new job. A CT was obtained which revealed an
aneurysm of the distal arch and proximal descending thoracic
aorta.  She has no family history of aneurysm or connective
tissue disease. Of note, she was involved in a small motor
vehicle accident in ___ where she was the driver and struck the
car in front of her that had bounced off the median strip. She
was then struck by the car behind her. She was wearing a 
seatbelt
and the airbag did not deploy. She was not injured enough to
warrant hospitalization. Interestingly, she had an 
echocardiogram
done several months earlier for a heart murmur which was read as
normal. She denies any chest pain, upper back pain, dyspnea or
palpitations. She presents today for surgical evaluation for
repair of her distal arch/descending thoracic aneurysm.
 
Past Medical History:
Past Medical History:
Migraine
Lower back pain
Allergic Rhinitis
Reactive airway disease
H/O MRSA postive culture in ___ - Axilla

Past Surgical History: 
Denies
 
Social History:
___
Family History:
 No Premature coronary artery disease or history
of aneurysm. Family history of polycystic kidney disease. 

 
Physical Exam:
Vital Signs sheet entries for ___:
BP: 120/78. Heart Rate: 64. Weight: 160 (Patient Reported).
Height: 65 (Patient Reported). BMI: 26.6. Resp. Rate: 15. Pain
Score: 0.
Height: 66"     Weight: 160lb    BSA:

General: WDWN in NAD
Skin: Warm [X] Dry [X] Intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X] Sclera anicteric, OP benign,
Teeth in good repair. 
Neck: Supple [X] Full ROM [X] No JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR, No M/R/G however there is a I/VI systolic murmur
heard in her left neck just above clavicle.  
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+
[X]
Extremities: Warm [X], well-perfused [X], No Edema 
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2 No Bruits
DP           Right:2   Left:2
___           Right:2   Left:2
Radial       Right:2   Left:2

Carotid Bruit  -  Right: None   Left: + ? Transmitted 

 
Pertinent Results:
Admission:
17.2 > 25.2 < ___  14
-------------< 94
4.0    24    0.7

___ 14.1   PTT  28.0   INR 1.3

Discharge:
6.9 > 29.9 < 229

137   97    8
--------------<  76
3.6   25    0.5  

___  11.1  PTT 25.2   INR 1.0

IMAGING:

ECHO  ___
PREBYPASS:
The left atrium is normal in size.
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. 
A large aneurysm is noted at the level of the left subclavian 
takeoff. The remainder of the descending aorta is of normal 
caliber.
The mitral valve appears structurally normal with trivial mitral 
regurgitation. 
There is no pericardial effusion. 

POSTBYPASS:
The patient is in sinus rhythm on titrated phenylephrine 
infusion. Biventricular function is maintained. Valves remain 
unchanged. The ascending aorta remains intact. The native 
descending aorta remains intact. 
 

 
Brief Hospital Course:
Patient presented on the day of surgery and underwent a open 
repair of aortic arch/descending thoracic aortic
aneurysm with left subclavian artery bypass.  Because of the 
location and the complexity, 2 surgeons from different 
specialties, Cardiac Surgery and Vascular Surgery, were 
required.  Please refer to the operative report for details of 
the surgery. The operation went successfully and there was a 
good pulse in the subclavian and the distal aorta that was equal 
to the pulse in the ascending/arch.   Small ___ drain was 
placed into the pericardium and exited the chest wall as well as 
2 additional chest tubes within the left chest. The patient was 
then taken to the ICU intubated in stable condition.  She was 
extubated soon after transfer to the ICU.  On POD1, she had 
difficulty tolerating pain. Epidural was placed as recommended 
by acute pain service. She was also persistently tachycardic and 
was started on metoprolol with good control. She was weaned off 
all pressors by POD1. On POD2, her chest tube and JP drains were 
discontinued and her diet was advanced. She received gentle 
diuresis and was transferred to the floor. Her foley was 
discontinued without event on POD3. Her epidural was attempted 
to be removed on POD3 however was found to be retained in the 
skin per spine X-ray and had to be removed under fluoroscopy by 
the acute pain service.  She was well transitioned to oral pain 
medication and ambulated with frequent physical therapy. By 
POD5, metoprolol was discontinued and patient received more 
diuresis. She continued to recover without event. By POD6, 
patient's pain was well controlled on PO pain medications, she 
was hemodynamically stable with normal labs, was ambulating and 
voiding without difficulty. She expressed full comfort in 
continuing her recovery at home with the help of her family. She 
received adequate counseling regarding the importance of 
ambulation and adequate PO intake. All her questions were 
answered. She is to follow up with Dr. ___ at his 
clinic as shown in her discharge instructions.

 
Medications on Admission:
Flonase
___
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
2. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3h prn Disp #*50 
Tablet Refills:*0
3. Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Heartburn] 150 mg 1 tablet(s) by mouth Q12 
prn Disp #*30 Tablet Refills:*0
4. Ibuprofen 800 mg PO Q8H:PRN pain 
RX *ibuprofen 800 mg 1 tablet(s) by mouth q8h  prn Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Descending thoraco-aortic aneurysm

 
Discharge Condition:
Stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Thoraic Aortic Aneurysm Surgery Discharge Instructions

WHAT TO EXPECT:

1. It is normal to feel weak and tired, this will last for ___ 
weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have incisional and leg swelling:
•Wear loose fitting pants/clothing (this will be less 
irritating to incision) 
•Elevate your legs above the level of your heart with ___ 
pillows every ___ hours throughout the day and at night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
•
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•You should get up every day, get dressed and walk, gradually 
increasing your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (let the soapy water run over incision, rinse 
and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR : ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 101.5F for 24 hours
•Bleeding from incision
•New or increased drainage from incision or white, yellow or 
green drainage from incisions

Division of Vascular and Endovascular Surgery
Thoraic Aortic Aneurysm Surgery Discharge Instructions

WHAT TO EXPECT:

1. It is normal to feel weak and tired, this will last for ___ 
weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have incisional and leg swelling:
•Wear loose fitting pants/clothing (this will be less 
irritating to incision) 
•Elevate your legs above the level of your heart with ___ 
pillows every ___ hours throughout the day and at night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
•
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•You should get up every day, get dressed and walk, gradually 
increasing your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (let the soapy water run over incision, rinse 
and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR : ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 101.5F for 24 hours
•Bleeding from incision
•New or increased drainage from incision or white, yellow or 
green drainage from incisions

 
Followup Instructions:
___